Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa(Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fall 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old R-handed woman with a past medical
history of a VP shunt placed on ___ who presents from 
___ after a fall two weeks ago and another this
evening with a CT scan showing a left-sided SDH.  

The history is obtained partly with help from her husband as she
is having some trouble with language currently.  She fell on ___ while in ___, by tripping backwards and hitting
the back of her head.  She then was brought to the ED at ___ in ___.  There, per report she had an
emergent left craniotomy for a left SDH (though the exact size 
of
it is not documented in the ___ notes) and then spent time in 
the
ICU.  She had some issues with word-finding, and headaches per
her husband and had to "relearn how to do everything - talk, 
walk
etc".  She had some right-sided deltoid weakness, that was
attributed (per the husband) to pain as that shoulder was hurt
during the fall.  She had memory/cognitive issues notes also. 
Her
VPS was changed to 2.5 in the setting of needing the emergent
craniotomy and then back to 1.5 at time of discharge.  She was
then sent to a SNF for one week and then to a rehabilitation
facility in ___ for 7 weeks.  

They transferred her to ___ in ___ next and
she has been there since ___.  However, two weeks ago (___), she tripped forwards and fell.  She was sent to the ED at
___ where they did a head CT and saw no new
hemorrhages. She was observed in the ED by neurosurgery for 
three
days, and then they sent her back to rehab.

She then fell today, likely backwards (where abrasion is), but
she doesn't recall the details.  She doesn't think this is
because of loss of consciousness or post-traumatic amnesia
though.  She was brought to ___ where a CT head showed an
acute/subacute SDH in the left lateral middle cranial fossa new
since the ___ CT.  It was read as stable mass effect from
the old CT with slightly more effacement of the temporal sulci,
but no evidence of midline shift.

There were no ICU beds available at ___, and they felt the
patient would likely need Q1H neuro checks, so sent her to ___
for further evaluation. 

In the ED she and her husband reported that her headaches and
language is worse today in comparison to previously.  Her 
husband
thinks that she would have some word-finding issues previously
but her language is now more hesitant and "confused".  

On neuro ROS, the pt reports headaches, right shoulder pain and
weakness and language issues, but denies loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
comprehending speech.  No new bowel or bladder incontinence or
retention. Denies newdifficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- HTN
- RA
- hypothyroidism
- GERD
- HLD
- anxiety
- spinal stenosis
- headaches
- s/p right knee replacement
- s/p colon resection for diverticulitis
- NPH s/p VPS on ___
 
Social History:
___
Family History:
reviewed and non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM
========================
Vitals: T: 97.8  P: 80 R: 16  BP: 135/68 SaO2: 93% on RA
General: Awake, cooperative, appears mildly frustrated at times. 

HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, VP shunt in place on top of head, depressed
adequately (at 1.5 on testing)
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR
Abdomen: soft, NT/ND
Extremities: venous stasis changes on ankles/calves bilaterally,
no edema
Skin: no rashes or lesions noted.
 
Neurologic: 
-Mental Status: She reports that she is in "___" (which is
where SSH is located).  She says she is in "rehab" and the year
was ___ and the month ___.  She does know that it is
___.  She had a hard time with word-finding and would
transpose words, like saying "he or she" for "I". She made
paraphasic errors also "reliculous" rather than ridiculous. 
Naming was intact though to high and low frequency objects (got
pen and glasses as well as lenses etc.).  Her speech was not
dysarthric.  She could ___ backwards to ___, then kept
trying to go forwards and was unable to. She did seem to have a
mild neglect of her right-side. 

-Cranial Nerves: 
I: Olfaction not tested.  
II: PERRL 3 to 2mm and brisk.  VFF to confrontation.  
III, IV, VI: EOMI without nystagmus, though easier to get her to
follow finger to the left, had to get her to follow my face to
the right.  Normal saccades. 
V: Facial sensation intact to light touch. 
VII: subtle right NLF flattening, but with good activation
bilaterally. 
VIII: Hearing intact to finger-rub bilaterally though 
diminished.

IX, X: Palate elevates symmetrically.  
XI: ___ strength in trapezii and SCM bilaterally. 
XII: Tongue protrudes in midline.
 
-Motor: Normal bulk, tone throughout. Right arm starts out
pronated even before I test drift, and then drift upwards
slightly with testing (parietal drift). No adventitious
movements, such as tremor, noted. No asterixis noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   5 
R  5-   ___   ___  5   5    5  5     5     5   5
 
-Sensory: No deficits to light touch, cold sensation, vibratory
sense, proprioception throughout. 
 
-DTRs: ___ throughout. Toes mute bilaterally

-Coordination: No intention tremor noted. No dysmetria on FNF
bilaterally, but right deltoid weakness/pain limited testing on
the right arm.
 
-Gait: Deferred

DISCHARGE PHYSICAL EXAM
========================
PHYSICAL EXAM:  
Vitals: 97.8 PO 128 / 74 70 18 98 RA 
General: NAD. Thin appearing. Appears stated age. Awake. 
Cooperative. Pleasant, but frustrated with word finding 
difficulties.   
HEENT: NC/AT. Abrasion on back of head. No scleral icterus. MMM. 
No OP lesions. VP shunt in place on top of head.    
Lymph:  No cervical or supraclavicular adenopathy.
CV: Normal rate and regular rhythm. S1/S2 audible. No m/r/g.
Lungs: Nonlabored breathing. CTAB. No wheezes/rhonchi/wheezes.
Abdomen: Soft, nontender, nondistended. No hepatosplenomegaly. 
No costovertebral tenderness. 
GU:  No Foley
Ext:  Warm and well perfused. No clubbing, cyanosis, or edema.  
Skin:  erythematous, scaly plaques on ankles and lower legs 
bilaterally. No other rashes or bruises.
Neuro: CNII-XII intact, can tract w/ eyes in both directions. No 
nystagmus. Strength ___ in upper and lower extremities, except 
for R upper extremity at shoulder on flexion/extension. 
Sensation intact to light touch throughout. Neg pronator drift. 
Neg Babinski. Cerebellar testing intact (FTN and HTS). Gait not 
assessed.   
Mental status (___): Intermittently attentive and orientation to 
first name, but states ___ rather than married last name, 
cannot identify that she is in a hospital versus church or 
school, and says that the year is 2T4). Repeats "no ifs and or 
buts" as "no buts". Says that 6 quarters is 7 dollars. When 
asked to ___ backwards, counts backwards from 7 to 1. When 
asked to ___ backwards, counts backwards from 12 to 1. Cannot 
name "pen, watch, or stethoscope." Cannot remember her husband's 
or son's name. No R/L confusion, can raise R or L hand when 
asked. Persistent conductive aphasia on ___.
On ___, pt is oriented to first and last name. She is able to 
tell me who the current president is. She can spell "WORLD" 
forward, but not backwards. She cannot ___ backwards. 
Cannot name "pen, clock, or stethoscope."
On ___, pt is able to tell me her full name ___ She 
thinks that it is the year ___, but knows that she is in the 
"hospital." She is A&Ox2. She can calculate that 7 quarters is 
$1.75She is able to name "pen, paper, or stethoscope" and is 
able to repeat "No ifs, ands or buts," but is still having a 
difficult time finding words (persistent conductive aphasia). 
She can spell "WORLD" forward, but not backwards. She cannot do 
___ backwards. She can follow commands w/o right-left 
confusion. On ___ she doesn't know the date but knows her name 
and place.
 
Pertinent Results:
ADMISSION LABS
================
___ 07:30PM URINE  WBCCLUMP-MANY MUCOUS-RARE
___ 07:30PM URINE  RBC-20* WBC->182* BACTERIA-FEW 
YEAST-NONE EPI-2
___ 07:30PM URINE  BLOOD-SM  NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 07:30PM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 07:30PM URINE  GR HOLD-HOLD
___ 07:30PM URINE  UHOLD-HOLD
___ 07:30PM URINE  HOURS-RANDOM
___ 07:30PM URINE  HOURS-RANDOM
___ 09:17PM   LACTATE-0.8
___ 09:24AM   ___ PTT-26.3 ___
___ 09:24AM   PLT COUNT-304
___ 09:24AM   WBC-13.3* RBC-4.16 HGB-12.5 HCT-39.2 MCV-94 
MCH-30.0 MCHC-31.9* RDW-13.7 RDWSD-47.1*
___ 09:24AM   ALBUMIN-3.8 CALCIUM-9.4 PHOSPHATE-4.4 
MAGNESIUM-1.5*
___ 09:24AM   ALT(SGPT)-24 AST(SGOT)-24 LD(LDH)-339* ALK 
PHOS-170* TOT BILI-0.3
___ 09:24AM   GLUCOSE-56* UREA N-14 CREAT-0.5 SODIUM-132* 
POTASSIUM-4.6 CHLORIDE-93* TOTAL CO2-19* ANION GAP-25*
___ 03:32PM   CALCIUM-9.2 PHOSPHATE-4.0 MAGNESIUM-1.3*
___ 03:32PM   GLUCOSE-224* UREA N-15 CREAT-0.6 SODIUM-129* 
POTASSIUM-4.0 CHLORIDE-94* TOTAL CO2-21* ANION GAP-18
___ 03:54PM   LACTATE-2.1*

MICROBIOLOGY
================
URINE CULTURE (Final ___:    < 10,000 CFU/mL.

C. difficile DNA amplification assay (___): Negative for 
toxigenic C. difficile by the Illumigene DNA amplification 
assay. 

IMAGING
================
CT Head w/o contrast (___):
FINDINGS:  
Postsurgical changes related to prior right frontotemporal 
craniotomy are again noted. There is a heterogeneous subdural 
extra-axial collection with both hypodense and hypo to isodense 
fluid compatible with acute on chronic subdural hematoma. This 
measures 14 mm in width from the calvarium.  This is minimally 
increased from prior exam when it measured 12 mm.  There is 
subjacent sulcal effacement, 
and there is no she significant shift of midline structures.  
There is a right frontal ventriculostomy catheter which 
terminates in the frontal horn of the left lateral ventricle, 
and the ventricles are stable in size and configuration.  
Periventricular white matter hypodensities are nonspecific but 
likely sequela of chronic small vessel ischemic changes.  There 
is no new intracranial hemorrhage or vascular territorial 
infarction. There is mucosal thickening of the bilateral ethmoid 
air cells.  There is partial opacification of the right mastoid 
air cells.  The visualized orbits are unremarkable. 
IMPRESSION: 
1. Mild increase size of the left lateral convexity acute on 
chronic subdural hematoma.  No shift of midline structures. 
2. Right frontal ventriculostomy catheter terminates in the 
frontal horn of the left lateral ventricle. 
3. Stable ventricle size and configuration. 

CT spine w/o contrast (___): 
FINDINGS:  
Alignment is normal. No fractures are identified.  There is no 
prevertebral soft tissue swelling.  Patient is status post 
vertebroplasty of T12 and L1 with unchanged configuration 
compared with prior studies.  Posterior osteophytosis at this 
level causes at least moderate to severe spinal canal and neural 
foraminal stenosis (2:105, 106, 110). Partially imaged portions 
of the ventriculoperitoneal shunt appear intact. There is 
moderate atherosclerotic disease, including moderate coronary 
arterial calcifications.  Limited images of the chest and 
abdomen are 
otherwise unremarkable. 
IMPRESSION:   
Multilevel degenerative changes with evidence of prior 
vertebroplasty with no signs of acute fracture or change in 
alignment. 

Chest PA & LAT (___):
FINDINGS:  
AP upright and lateral views of the chest provided. The tubing 
again noted traversing the right hemi thorax consistent with VP 
shunt.  Lungs are clear.  Cardiomediastinal silhouette appears 
normal.  No acute osseous injury.  Vertebroplasty changes are 
noted at the thoracolumbar junction and in the mid lumbar spine. 

IMPRESSION:  
No acute findings. 

CT Head w/o contrast (___):
FINDINGS:  
Acute on chronic left subdural hematoma measuring approximately 
1.3 cm in greatest thickness is similar in size to prior 
examination.  Mass effect on the adjacent sulci is unchanged.  
There is no significant midline shift.  A right trans frontal 
ventriculostomy catheter with tip abutting the septum pellucidum 
near the foramen ___ is similar in appearance to prior 
examination.  There remains ventriculomegaly, similar in 
configuration from prior exam.  No new hemorrhage is identified. 
 There is no acute large territorial infarct.  Periventricular 
and subcortical white matter hypodensities are nonspecific, but 
compatible with chronic microangiopathy in a patient of this 
age.  A large left parietal scalp 9 mm thick hematoma is similar 
in appearance to prior exam.  Allowing for left pterional and 
parietal craniotomy, no acute osseous abnormalities.  The 
visualized paranasal sinuses are clear.  The orbits are 
unremarkable.   
IMPRESSION: 
1. No interval change in left lateral convexity acute on chronic 
subdural hematoma measuring up to 1.3 cm in greatest dimension.  
No significant midline shift. 

CT spine w/o contrast (___):  
FINDINGS:  
1. No evidence of acute fracture or malalignment of the thoracic 
spine. 
2. Status post T12 and L1 vertebroplasty with posterior 
osteophytosis/bone fragment  causing at least moderate to severe 
neural foraminal and spinal canal stenosis, unchanged. 

CT Head w/o contrast (___):
IMPRESSION:
1. Since the prior CT the left-sided subdural collection has 
evolved and slightly decreased in size. 
2. Ventricular size has decreased with consequent small right 
frontal subdural effusion. 

MR HEAD W/O CONTRAST (___):
IMPRESSION:
1. Unchanged left lateral convexity subdural hematoma measuring 
up to 9 mm in maximal thickness with localized mass effect, 
without significant midline shift. 
2. Small amount of left posterior parietal subarachnoid 
hemorrhage. 
3. Unchanged position of a right frontal approach VP shunt 
catheter with stable ventriculomegaly since ___. 
4. Confluent areas of white matter signal changes likely . 
5. Otherwise no definite new hemorrhage or acute infarct given 
limitations of susceptibility artifact from VP shunt reservoir.

NEUROPHYSIOLOGIC STUDIES
================
Routine EEG (___): 
FINDINGS:  
Background: The background rhythm over the right hemisphere is 
posterior 9.0 Hz alpha activity while over the left hemisphere 
the background is slower at the 7.5 - 8.0 Hz theta-alpha range. 
There is a breech rhythm over the left hemisphere with 
continuous slow ___ Hz delta activity in the keft posterior 
centralquadrant superimposed on the background. 
Hyperventilation: Hyperventilation was not performed. 
Intermittent Photic Stimulation: IPS did not produce a driving 
response 
Sleep: The patient was drowsy but did not progress beyond that 
stage. 
Cardiac Monitor: Heart rhythm was sinus throughout. 
Impression: This is an abnormal routine EEG. It shows a breech 
effect over the left hemisphere along with focal slowing in the 
left posterior central quadrant as well as left hemisphere 
slowing of the background activity. This is most compatible with 
a large left hemisphere structural abnormality and shows the 
post-surgical effect on the amplitude of left hemisphere 
activity. 
No epileptiform abnormalities were seen. 

PERTINENT AND DISCHARGE LABS
================
___ 05:30AM BLOOD WBC-9.4 RBC-3.76* Hgb-11.4 Hct-33.8* 
MCV-90 MCH-30.3 MCHC-33.7 RDW-13.6 RDWSD-44.7 Plt ___
___ 04:29AM BLOOD WBC-7.5 RBC-3.64* Hgb-10.9* Hct-33.7* 
MCV-93 MCH-29.9 MCHC-32.3 RDW-13.6 RDWSD-45.8 Plt ___
___ 05:40AM BLOOD WBC-9.0 RBC-3.70* Hgb-10.9* Hct-34.0 
MCV-92 MCH-29.5 MCHC-32.1 RDW-13.8 RDWSD-46.3 Plt ___
___ 04:40AM BLOOD WBC-9.5 RBC-3.69* Hgb-11.1* Hct-33.8* 
MCV-92 MCH-30.1 MCHC-32.8 RDW-13.5 RDWSD-45.1 Plt ___
___ 04:25AM BLOOD WBC-9.0 RBC-3.93 Hgb-11.8 Hct-35.4 MCV-90 
MCH-30.0 MCHC-33.3 RDW-13.6 RDWSD-45.1 Plt ___
___ 05:30AM BLOOD WBC-8.1 RBC-3.88* Hgb-11.7 Hct-35.8 
MCV-92 MCH-30.2 MCHC-32.7 RDW-13.7 RDWSD-46.2 Plt ___

___ 05:30AM BLOOD Plt ___
___ 04:29AM BLOOD Plt ___
___ 05:40AM BLOOD Plt ___
___ 04:40AM BLOOD Plt ___
___ 04:25AM BLOOD Plt ___
___ 05:30AM BLOOD Plt ___

___ 05:30AM BLOOD Glucose-101* UreaN-13 Creat-0.5 Na-132* 
K-3.8 Cl-97 HCO3-25 AnGap-14
___ 04:29AM BLOOD Glucose-94 UreaN-11 Creat-0.5 Na-132* 
K-3.5 Cl-100 HCO3-20* AnGap-16
___ 05:40AM BLOOD Glucose-94 UreaN-7 Creat-0.5 Na-134 K-4.7 
Cl-102 HCO3-13* AnGap-24*
___ 05:00PM BLOOD Glucose-124* UreaN-8 Creat-0.6 Na-130* 
K-4.7 Cl-98 HCO3-24 AnGap-13
___ 04:40AM BLOOD Glucose-104* UreaN-7 Creat-0.5 Na-132* 
K-4.1 Cl-99 HCO3-24 AnGap-13
___ 04:25AM BLOOD Glucose-92 UreaN-11 Creat-0.5 Na-132* 
K-4.3 Cl-95* HCO3-26 AnGap-15
___ 05:30AM BLOOD Glucose-90 UreaN-14 Creat-0.6 Na-131* 
K-4.9 Cl-93* HCO3-25 AnGap-18

___ 05:30AM BLOOD Calcium-9.3 Phos-3.5 Mg-1.4*
___ 04:29AM BLOOD Calcium-8.2* Phos-2.9 Mg-2.4
___ 05:40AM BLOOD Calcium-8.5 Phos-2.1* Mg-1.7
___ 05:00PM BLOOD Calcium-8.9 Phos-3.0 Mg-2.1
___ 04:40AM BLOOD Calcium-8.8 Phos-3.1 Mg-1.7
___ 04:25AM BLOOD Calcium-9.3 Phos-4.0 Mg-1.9
___ 05:30AM BLOOD Calcium-9.8 Phos-5.3* Mg-1.5*

___ 12:12PM BLOOD ___ pO2-50* pCO2-44 pH-7.37 
calTCO2-26 Base XS-0 Comment-GREEN TOP

___ 09:30PM BLOOD Lactate-1.3
___ 12:12PM BLOOD Lactate-1.3

___ 07:30PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 07:30PM URINE Blood-SM  Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 07:30PM URINE RBC-20* WBC->182* Bacteri-FEW Yeast-NONE 
Epi-2
___ 07:30PM URINE WBC Clm-MANY Mucous-RARE

___ 06:49PM URINE Hours-RANDOM UreaN-876 Creat-97 Na-137
___ 02:14PM URINE Hours-RANDOM UreaN-489 Creat-107 Na-84

___ 06:49PM URINE Osmolal-717
___ 02:14PM URINE Osmolal-482
___ 04:55AM BLOOD WBC-8.5 RBC-3.98 Hgb-11.8 Hct-36.1 MCV-91 
MCH-29.6 MCHC-32.7 RDW-13.6 RDWSD-44.9 Plt ___
___ 04:55AM BLOOD Glucose-84 UreaN-12 Creat-0.5 Na-131* 
K-4.5 Cl-93* HCO3-26 AnGap-17
 
Brief Hospital Course:
Ms. ___ is a ___ lady (R-handed) woman with normal 
pressure hydrocephalus characterized by gait difficulty, s/p VP 
shunt placed on ___, recent subdural hematoma (___) 
with residual word finding difficulty, RA s/p b/l TKR, HTN, HLD, 
GERD, hypothyroidism, and anxiety, who presented from ___ 
___ after a fall with headstrike on ___ w/o acute 
CT abnormalities, and another fall on ___, with CT notable 
for left lateral convexity acute on chronic SDH. 

#Subdural hematoma: Patient, who has NPH (primary gait 
abnormalities) w/VP shunt (placed ___, was admitted to ___ 
s/p fall with headstrike iso attempting to walk w/o walker on 
___, with OSH CT on ___ demonstrating acute on chronic SDH in 
left lateral convexity (L temporal area) measuring up to 1.3 cm, 
w/o midline shift or mass effect. Of note, pt had a recent SDH 
resulting from a similar fall while pt was on vacation in 
___ on ___, for which she received a craniotomy, and 
since when she has had residual word finding difficulty. Pt was 
admitted to neurosurgery at which point VP shunt was adjusted to 
2.5. She was also started on keppra 500 mg BID for seizure 
prophylaxis. Patient had no FNDs on neurologic exam and in the 
absence of mass effect/shift, there was no need for 
neurosurgical intervention. Repeat CT scans on ___ and ___ 
demonstrated that acute on chronic SDH was unchanged and 
remained w/o midline shift. On ___, patient and family felt that 
her word finding difficulty had worsened and that she was 
"severely confused." Patient was transferred to medicine for 
management of these issues.  

On the medicine floor, patient was initially A&Ox1 (only to her 
first name) with poor attention on exam, difficulty with 
calculation, days of the week backwards, naming, repeating, 
following complex left-right commands, and had persistent word 
finding difficulties, which frustrated her. She was treated with 
nonpharmacologic delirium treatment including frequent 
re-orientation, light/day orientation, minimization of 
repetitive stimuli (sounds, lights), maximization of cognitive 
stimuli (conversation w/family and friends), and placement near 
nursing station. In addition, patient's alprazolam and melatonin 
were discontinued in order to minimize sedative medications. 
Neurology was consulted and they recommended repeat imaging and 
EEG. NCHCT on ___ and MRI on ___ show reduction in size of SDH, 
and no e/o new infarct or hemorrhage. VP shunt setting 
placement/setting were checked by neurosurgery following MRI 
(set at 2.5). EEG on ___ was notable for left sided slowing 
likely ___ left sided cerebral dysfunction iso patient's acute 
on chronic SDH. Given no e/o seizure on EEG, patient should stop 
keppra 500 mg BID after finishing 14-day course (___).

At the time of discharge, patient's orientation had improved to 
A&Ox2 (thinks it is ___, she was able to calculate that 7 
quarters is $1.75, had improvement in naming ("pen, stethoscope, 
and cup"), and was able to follow complex left-right commands, 
although her word finding difficulties persisted.  Patient's 
residual word finding difficulty and impaired mental status will 
likely improve with continued resolution of the subdural 
hematoma and with a combination of physical therapy, occupation 
therapy, and speech therapy.

#Hyponatremia: Pt admitted with Na 132, which decreased to 129 
on ___, with repeat Na 132 following administration of salt tabs 
and IVF on ___. Urine lytes on ___: UreaN:876, Creat:97, Na:137, 
Osmolal:717, FeNa 0.5%. SOsm 285. Given improvement in Na with 
IVF and FeNa<1%, initially thought that hyponatremia was likely 
___ to hypovolemia, although considered an additional component 
of SIADH given high UNa and high UOsm, and patient's significant 
neurologic disease. Na 132 on ___ and 134 on ___ s/p 1L IVF on 
___. Na decreased again to 132 on ___ and ___ with continued 
mIFV, with repeat urine lytes on ___: Uosm: 482, UCreat:107, 
UNa:84 on ___, FeNa 0.3%, more c/w SIADH. Likely that patient 
has SIADH, and was having superimposed hypovolemic hyponatremia 
on top of that. Na 131 on ___. Instituted 2L PO fluid 
restriction, held mIVF, with Na 131 at time of discharge. 

#UTI: Patient had UA on initial workup in ED on ___ notable for 
WBC, RBC, bacteria, and large leukocyte esterase. She denied any 
dysuria, urinary frequency, and did not have a Foley. Urine cx 
obtained, and she was started on empiric ciprofloxacin PO 500 mg 
q12hrUrine cx ___ negative. Urine cx resulted negative on ___, 
and empiric ciprofloxacin was discontinued.  

#HTN: Patient's BPs ranged from ___ throughout 
hospitalization. Patient continued on home amlodipine and 
atenolol. 

#HLD: Patient was continued on home pravastatin.

#RA: Patient is s/p bilateral TKR. She has some slight ulnar 
deviation and Swan neck deformities on exam. Says her joints 
hurt intermittently, but that this is her b/l right now. Patient 
was continued on home prednisone 4 mg QD and home plaquenil. 
Patient's home leflunomide was held while receiving empiric 
antibiotics for c/f UTI and was started at time of discharge, 
per patient's outpatient rheumatologist, Dr. ___, 
___.

#Hypothyroidism: Patient was continued on her home 
levothyroxine.

#GERD: Patient was continued on her home pantoprazole.

#Lumbar spinal stenosis/back pain: Patient was continued on her 
home gabapentin and home lidocaine patch.

#Anxiety/Insomnia: Patient was continued on her home sertraline 
and home trazodone.
Her home alprazolam and melatonin were discontinued iso waxing 
and waning orientation and not restarted for discharge. 

TRANSITIONAL ISSUES:
=======================
#Patient is not on Aspirin/Coumadin/Plavix, but she should not 
take these until she is cleared by the neurosurgeon at follow-up 
appointment.
#Patient is on keppra 500 mg PO BID for seizure prophylaxis in 
the setting of subdural hemorrhage. Given no e/o seizure on EEG, 
this can be discontinued upon conclusion of 14-da course (day 
___.
#Patient has VP shunt placed ___. Current shunt setting 2.5. 
Shunt was checked following MRI on ___ to confirm placement.
#Patient's alprazolam and melatonin were discontinued in the 
setting of her waxing and waning orientation, and was not 
restarted for discharge. Also recommend that opiates, 
benzodiazepines, and anticholinergics are minimized in this 
patient. 
#Recommend continuation of nonpharmacologic delirium measures 
that helped during inpatient hospitalization, including 
light/day orientation, frequent re-orientation, minimization of 
repetitive stimuli (light/sound), and cognitive stimulation 
during the day (placement near nursing station, interaction with 
family).
#Patient should call her PCP, ___ (___), 
to set up an appointment to be seen within one week of 
discharge.
#Patient should call Neurosurgery at ___ to set up a follow-up 
appointment with Dr. ___ (___) to be seen 
within one week of discharge. 
#Patient should call her rheumatologist, Dr. ___, 
(___), to schedule an appointment to be seen within two 
weeks of discharge.

#Code status: Full code
#HCP: Husband, ___ ___, M: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 100 mg PO DAILY 
2. Fish Oil (Omega 3) 1000 mg PO DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Lidocaine 5% Patch 1 PTCH TD QAM 
5. PredniSONE 4 mg PO DAILY 
6. Acetaminophen 650 mg PO Q8H 
7. Modafinil 200 mg PO DAILY 
8. Gabapentin 300 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. ALPRAZolam 0.25 mg PO QHS 
11. melatonin 5 mg oral QHS 
12. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 
13. LOPERamide 2 mg PO QID:PRN diarrhea 
14. Levothyroxine Sodium 100 mcg PO DAILY 
15. Hydroxychloroquine Sulfate 200 mg PO DAILY 
16. Sertraline 25 mg PO DAILY 
17. TraZODone 25 mg PO QHS:PRN insomnia 
18. Pravastatin 40 mg PO QPM 
19. leflunomide 20 mg oral DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
til ___  
2.  Multivitamins 1 TAB PO DAILY  
3.  Acetaminophen 650 mg PO Q8H  
4.  amLODIPine 10 mg PO DAILY  
5.  Atenolol 100 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  Gabapentin 300 mg PO DAILY  
8.  Hydroxychloroquine Sulfate 200 mg PO DAILY  
9.  Ibuprofen 400 mg PO Q8H:PRN Pain - Mild  
10.  leflunomide 20 mg oral DAILY  
11.  Levothyroxine Sodium 100 mcg PO DAILY  
12.  Lidocaine 5% Patch 1 PTCH TD QAM  
13.  LOPERamide 2 mg PO QID:PRN diarrhea  
14.  Modafinil 200 mg PO DAILY  
15.  Pantoprazole 40 mg PO Q24H  
16.  Pravastatin 40 mg PO QPM  
17.  PredniSONE 4 mg PO DAILY  
18.  Sertraline 25 mg PO DAILY  
19.  TraZODone 25 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
========================
Left lateral convexity acute on chronic subdural hematoma  
Hyponatremia

SECONDARY DIAGNOSES:
========================
Rheumatoid arthritis
Lumbar spinal stenosis
Gastroesophagheal reflux disease
Hypertension
Hyperlipidemia
Hypothyroidism
Anxiety
Insomnia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery service on ___ 
after a fall from standing. You were found to have a small left 
sided head bleed that has been stable on CT scan. You were seen 
and evaluated by the neurosurgery team who determined no 
surgical intervention was needed, although you continued to have 
word finding difficulty which was worse than your baseline and 
you were also intermittently confused. You were transferred to 
the medicine team for management of these issues that are likely 
related to the brain bleed. While on the medicine team, your 
confusion and word finding difficulty improved and repeat CT and 
MRI imaging showed that your head bleed was reducing in size. 
You will likely improve as your bleed continues to resolve, and 
you will likely benefit from physical therapy, occupational 
therapy, and speech therapy. 

Following discharge, please make sure that you:
#Please call your PCP, ___ (___), to set 
up an appointment to be seen within one week of discharge. 
#Please also call Neurosurgery at ___ to set up a follow-up 
appointment with Dr. ___ (___) to be seen 
within one week of discharge. 
#Please also call your rheumatologist, Dr. ___, 
(___), to schedule an appointment to be seen within two 
weeks of your discharge.    

 
Followup Instructions:
___